US08039463B2
HOBt (19 mg, 0.14 mmol) and DIPEA (0.017 mg, 0.14 mmol) were added to a stirred solution of N-biphenyl-4-yl-malonamic acid (40 mg, 0.14 mmol) in DMF (3 mL). The mixture was cooled to 10° C. and EDCI.HCl (40 mg, 0.2 mmol) followed by piperazin-1-yl-(2-trifluoromethyl-phenyl)-methanone hydrochloride (45 mg, 0.15 mmol) were added. The mixture was stirred at room temperature overnight, then diluted with water. The resulting precipitate was filtered and the residue was purified by column chromatography using silica gel 60-120 mesh and 90% ethyl acetate in hexane as eluant to afford 20 mg (30%) of N-biphenyl-4-yl-3-oxo-3-[4-(2-trifluoromethyl-benzoyl)-piperazin-1-yl]-propionamide. LCMS: 496.18 (M+1)+, 97.3%. 1H NMR: (CDCl3): δ 9.6 (d, 1H), 7.76 (d, 1H), 7.6 (m, 7H), 7.44 (t, 2H), 7.35 (t, 2H), 4.0 (m, 2H), 3.7 (m, 4H), 3.5 (m, 4H), 3.25 (m, 2H).

reactant | HOBt | 0.14 mmol, 19 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIPEA | 0.14 mmol, 0.017 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | N-biphenyl-4-yl-malonamic acid | 0.14 mmol, 40 mg | C1(=CC=C(C=C1)NC(CC(=O)O)=O)C1=CC=CC=C1 | C15H13NO3
reactant | EDCI.HCl | 0.2 mmol, 40 mg | CCN=C=NCCCN(C)C.Cl
reactant | piperazin-1-yl-(2-trifluoromethyl-phenyl)-methanone hydrochloride | 0.15 mmol, 45 mg | Cl.N1(CCNCC1)C(=O)C1=C(C=CC=C1)C(F)(F)F
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | N-biphenyl-4-yl-3-oxo-3-[4-(2-trifluoromethyl-benzoyl)-piperazin-1-yl]-propionamide | 20 mg, 30% | C1(=CC=C(C=C1)NC(CC(N1CCN(CC1)C(C1=C(C=CC=C1)C(F)(F)F)=O)=O)=O)C1=CC=CC=C1 | C27H24F3N3O3
